US07119083B2
N-[(9H-Fluoren-9-yl)methoxycarbonyl]-O-(benzyl)-D-serine t-Butyl ester
N-[(9H-Fluoren-9-yl)methoxycarbonyl]-O-(benzyl)-D-serine (0.710 g, 1.70 mmole) in dichloromethane (8 mL) was treated with t-butyl acetate (3 mL) and concentrated sulfuric acid (40 μL) in a sealed flask at 0° C. Upon completion (TLC), the reaction was quenched with of dichloromethane (10 mL) and saturated aqueous potassium bicarbonate (15 mL). The organic layer was washed with distilled water, and evaporated. The resulting residue was purified by flash column chromatography (98:2 dichloromethane/methanol) to yield the title compound as a colorless oil (0.292 g, 77%); 1H NMR (CDCl3) δ 1.44 (s, 9H); 3.68 (dd, J=2.9 Hz, J=9.3 Hz, 1H); 3.87 (dd, J=2.9 Hz, J=9.3 Hz, 1H); 4.22 (t, J=7.1 Hz, 1H); 4.30–4.60 (m, 5H); 5.64–5.67 (m, 1H); 7.25–7.39 (m, 9H); 7.58–7.61 (m, 2H); 7.73–7.76 (m, 2H).

reactant | N-[(9H-Fluoren-9-yl)methoxycarbonyl]-O-(benzyl)-D-serine | 1.70 mmole, 0.710 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](COCC1=CC=CC=C1)C(=O)O | C25H23NO5
reactant | t-butyl acetate | 3 mL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | sulfuric acid | 40 μL | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | N-[(9H-Fluoren-9-yl)methoxycarbonyl]-O-(benzyl)-D-serine t-Butyl ester | 0.292 g, 77% | C(C)(C)(C)OC([C@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)COCC1=CC=CC=C1)=O | C29H31NO5
